US09102613B2
In a 1000 ml four-neck flask, equipped with thermometer, intense cooler, submerged tube for phosgene and KPG agitator, 100 g (0.88 mol) of all-E-sorbic acid and 600 g of ethyl acetate are charged. To the resultant suspension are added 101.2 g (1 mol) of triethylamine, whereupon a clear yellow solution forms. The batch was then cooled using a cooling bath to 0-5° C. Then, in the course of 4 hours at 0-5° C., 50.7 g (0.51 mol) of phosgene were introduced, wherein the deposition of the triethylamine hydrochloride is immediately observed. After completion of phosgene metering, the batch was stirred overnight at RT. After examination for freedom from phosgene, the batch was filtered and the suction filter residue was washed with 200 ml of ethyl acetate. The resultant brownish-yellow filtrate was concentrated on a rotary evaporator in a vacuum. The resultant brown oil (90.7 g) was placed under nitrogen into a clear glass bottle and rapidly solidified at room temperature. A GC analysis gave a content of 85.9 weight % of all-E-sorbic anhydride; 9.13 weight % unreacted sorbic acid and 0.31% sorbyl chloride. In 1H-NMR, a content of 94.5 weight % anhydride and 2.9 weight % of triethylamine was observed. Isomerization was not observed. Based on the GC content, a yield of 85.6% of theory was determined, based on sorbic acid used.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | E-sorbic acid | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | triethylamine | 1 mol, 101.2 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.51 mol, 50.7 g | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | ethyl acetate | 600 g | C(C)(=O)OCC | C4H8O2
product | E-sorbic anhydride | yield of 85.6% | C(\C=C\C=C\C)(=O)OC(\C=C\C=C\C)=O | C12H14O3
